US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.96 g) and 2-(chloromethyl)thiophene (0.25 g) as a starting material, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.95 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 133, 5-hydroxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.41 g) was obtained. melting point: 125-129° C.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.96 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C | C30H32N4O2
reactant | 2-(chloromethyl)thiophene | 0.25 g | ClCC=1SC=CC1 | C5H5ClS
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.95 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC=1SC=CC1)C=1C=NC(=CC1)C(C)C | C35H36N4O2S
